### PR TITLE
A stopping time can be decomposed as an accessible time and an inaccessible time

### PR DESCRIPTION
**Pull request by EtienneC30**

### CODE REVIEW

File: BrownianMotion/StochasticIntegral/PredictableTime.lean [hunk 1]
```diff
@@ -0,0 +1,234 @@
...
+      grw [WithTop.coe_le_coe.2 hn, h]
+    · exact hi.trans_lt (by simp)
+  rw [this]
+  exact .iUnion fun n ↦ hτ.measurableSet_le' (u n)
+
+/-- For a stopping time `τ`, there exists a set `A` that is `𝓕 τ`-measurable and such that
+`τ_A` is accessible while `τ_Aᶜ` is inaccessible, where `τ_A` is the stopping time which
+coincides with `τ` over `A` and is infinite elsewhere. -/
+theorem IsStoppingTime.decompositon
+  [∀ ω (s : Set Ω), Decidable (ω ∈ s)] [TopologicalSpace ι] [OrderTopology ι]
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/PredictableTime.lean]:
```suggestion
    [∀ ω (s : Set Ω), Decidable (ω ∈ s)] [TopologicalSpace ι] [OrderTopology ι]
```

**Review by RemyDegenne — APPROVED** [review]
